*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-331
* Inductance = 0.36uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-331_freq port1 port2 PARAMS: Cpar=0.47pF Ind=0.36uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.97
+ C= {Cpar}
+ K1=0.000005
+ K2=0.72
+ K3= {Ind}
+ K4=0.009
+ K5=0.0000013
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9386.5732
.ends 0603HL-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-391
* Inductance = 0.44uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-391_freq port1 port2 PARAMS: Cpar=0.41pF Ind=0.44uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=1.05
+ C= {Cpar}
+ K1=0.000005
+ K2=0.99
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000013
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13668.6486
.ends 0603HL-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-471
* Inductance = 0.49uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-471_freq port1 port2 PARAMS: Cpar=1.8pF Ind=0.49uH
X1 port1 port2 Model1A PARAMS:
+ R1=12
+ R2=1.15
+ C= {Cpar}
+ K1=0.000005
+ K2=0.52
+ K3= {Ind}
+ K4=0.007
+ K5=0.0000028
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5183.68472
.ends 0603HL-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-511
* Inductance = 0.58uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-511_freq port1 port2 PARAMS: Cpar=0.56pF Ind=0.58uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=1.2
+ C= {Cpar}
+ K1=0.00008
+ K2=1
+ K3= {Ind}
+ K4=0.022
+ K5=0.00000115
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12040.2
.ends 0603HL-511_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-561
* Inductance = 0.64uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-561_freq port1 port2 PARAMS: Cpar=0.45pF Ind=0.64uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=1.35
+ C= {Cpar}
+ K1=0.000005
+ K2=1.2
+ K3= {Ind}
+ K4=0.026
+ K5=9.25E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12877.7559
.ends 0603HL-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-681
* Inductance = 0.77uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-681_freq port1 port2 PARAMS: Cpar=0.44pF Ind=0.77uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=1.8
+ C= {Cpar}
+ K1=0.000155
+ K2=1.5
+ K3= {Ind}
+ K4=0.029
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17146.4572
.ends 0603HL-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-821
* Inductance = 0.88uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-821_freq port1 port2 PARAMS: Cpar=0.4pF Ind=0.88uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=2.45
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.018
+ K5=0.0000016
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17365.4852
.ends 0603HL-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-102
* Inductance = 1.05uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-102_freq port1 port2 PARAMS: Cpar=0.313pF Ind=1.05uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=2.8
+ C= {Cpar}
+ K1=0.000005
+ K2=1.4
+ K3= {Ind}
+ K4=0.007
+ K5=0.00015
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18749.7901
.ends 0603HL-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-122
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-122_freq port1 port2 PARAMS: Cpar=0.39pF Ind=1.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=3.2
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000017
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19341.6396
.ends 0603HL-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-152
* Inductance = 1.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-152_freq port1 port2 PARAMS: Cpar=1.08pF Ind=1.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=4.1
+ C= {Cpar}
+ K1=0.000005
+ K2=0.9
+ K3= {Ind}
+ K4=0.021
+ K5=0.000072
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7786.2687
.ends 0603HL-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-182
* Inductance = 1.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-182_freq port1 port2 PARAMS: Cpar=0.48pF Ind=1.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=5.3
+ C= {Cpar}
+ K1=0.000005
+ K2=1.5
+ K3= {Ind}
+ K4=0.02
+ K5=0.000036
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15892.2583
.ends 0603HL-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-222
* Inductance = 2.15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-222_freq port1 port2 PARAMS: Cpar=0.58pF Ind=2.15uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=5.9
+ C= {Cpar}
+ K1=0.000005
+ K2=1.7
+ K3= {Ind}
+ K4=0.007
+ K5=0.0000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15932.9411
.ends 0603HL-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-272
* Inductance = 2.75uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-272_freq port1 port2 PARAMS: Cpar=0.23pF Ind=2.75uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=7
+ C= {Cpar}
+ K1=0.000005
+ K2=2.7
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000035
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=33053.5898
.ends 0603HL-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603HL-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603HL-332_freq port1 port2 PARAMS: Cpar=0.32pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=9.1
+ C= {Cpar}
+ K1=0.000005
+ K2=2.6
+ K3= {Ind}
+ K4=0.02
+ K5=0.0000024
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26207.4871
.ends 0603HL-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
